US04938790
Preparation of 1-(2-Hydroxy-3,4-dimethoxyphenyl)-1-(2-hydroxyphenyl)cyclopropane.
A solution of 1.16 g (3.1 mmol) of 1-(2-methoxymethoxyphenyl)-1-(3,4-dimethoxy-2-methoxymethoxyphenyl)cyclopropane and 80 mg (0.47 mmol) of p-toluenesulfonic acid in 26 ml of methanol was heated at reflux with stirring for 2 hours under an argon atmosphere. The mixture was concentrated to half by evaporation under reduced pressure and 40 ml of ether was added. The resulting solution was extracted with 30 ml of 5 percent aqueous sodium bicarbonate then 30 ml of water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure to obtain 880 mg of the title compound as a foamy oil. The proton NMR spectrum was consistent with the assigned structure.

reactant | 1-(2-methoxymethoxyphenyl)-1-(3,4-dimethoxy-2-methoxymethoxyphenyl)cyclopropane | 3.1 mmol, 1.16 g | COCOC1=C(C=CC=C1)C1(CC1)C1=C(C(=C(C=C1)OC)OC)OCOC | C21H26O6
reactant | p-toluenesulfonic acid | 0.47 mmol, 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 26 ml | CO | CH4O
product | 1-(2-Hydroxy-3,4-dimethoxyphenyl)-1-(2-hydroxyphenyl)cyclopropane | 880 mg | OC1=C(C=CC(=C1OC)OC)C1(CC1)C1=C(C=CC=C1)O | C17H18O4
